* /home/ash98/downloads/esim-master/src/subcircuitlibrary/bpw_46/bpw_46.cir

.include 1N914D.lib
g1  net-_c1-pad1_ net-_c1-pad2_ net-_g1-pad3_ net-_c1-pad2_ 1
* u1  net-_r2-pad2_ net-_c1-pad2_ net-_c1-pad2_ net-_g1-pad3_ port
i1  net-_c1-pad1_ net-_c1-pad2_ 2n
d1 net-_c1-pad1_ net-_c1-pad2_ 1N914
c1  net-_c1-pad1_ net-_c1-pad2_ 50p
r1  net-_c1-pad2_ net-_c1-pad1_ 3500m
r2  net-_c1-pad1_ net-_r2-pad2_ 7.2k
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
