* Subcircuit BPW_46
.subckt BPW_46 net-_r2-pad2_ net-_c1-pad2_ net-_c1-pad2_ net-_g1-pad3_ 
* /home/ash98/downloads/esim-master/src/subcircuitlibrary/bpw_46/bpw_46.cir
.include 1N914D.lib
g1  net-_c1-pad1_ net-_c1-pad2_ net-_g1-pad3_ net-_c1-pad2_ 1
i1  net-_c1-pad1_ net-_c1-pad2_ 2n
d1 net-_c1-pad1_ net-_c1-pad2_ 1N914
c1  net-_c1-pad1_ net-_c1-pad2_ 50p
r1  net-_c1-pad2_ net-_c1-pad1_ 3500m
r2  net-_c1-pad1_ net-_r2-pad2_ 7.2k
* Control Statements

.ends BPW_46