* /home/ash98/esim-workspace/nghdl-count/nghdl-count.cir

v1  clock gnd pulse(0 5 0 0 0 0.0005 0.001)
v2  rst gnd pulse(0 0 0 0 0 0 0)
* u2  clock plot_v1
* u3  rst plot_v1
r10  out1 gnd 1k
* u8  out8 plot_v1
* u10  out7 plot_v1
* u11  out6 plot_v1
* u12  out5 plot_v1
* u13  out4 plot_v1
* u14  out3 plot_v1
* u15  out2 plot_v1
* u16  out1 plot_v1
r9  out2 gnd 1k
r8  out3 gnd 1k
r7  out4 gnd 1k
r6  out5 gnd 1k
r5  out6 gnd 1k
r3  out7 gnd 1k
r1  out8 gnd 1k
r2  out9 gnd 1k
r4  out10 gnd 1k
* u7  out9 plot_v1
* u9  out10 plot_v1
* u6  net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ out1 out2 out3 out4 out5 out6 out7 out8 dac_bridge_8
* u4  clock rst net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u5  net-_u1-pad11_ net-_u1-pad12_ out9 out10 dac_bridge_2
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ counter4017
a1 [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] [out1 out2 out3 out4 out5 out6 out7 out8 ] u6
a2 [clock rst ] [net-_u1-pad1_ net-_u1-pad2_ ] u4
a3 [net-_u1-pad11_ net-_u1-pad12_ ] [out9 out10 ] u5
a4 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ ] u1
* Schematic Name: dac_bridge_8, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name: adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name: dac_bridge_2, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name: counter4017, NgSpice Name: counter4017
.model u1 counter4017(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 instance_id=1 ) 
.tran 10e-06 20e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clock)
plot v(rst)
plot v(out8)
plot v(out7)
plot v(out6)
plot v(out5)
plot v(out4)
plot v(out3)
plot v(out2)
plot v(out1)
plot v(out9)
plot v(out10)
.endc
.end
