* /home/ash98/downloads/esim-master/src/subcircuitlibrary/ina_128/ina_128.cir

.include lm_741.sub
x1 ? net-_r1-pad1_ /-vin net-_u1-pad4_ ? net-_r1-pad2_ net-_u1-pad7_ ? lm_741
x2 ? net-_r2-pad1_ /+vin net-_u1-pad4_ ? net-_r2-pad2_ net-_u1-pad7_ ? lm_741
x3 ? net-_r3-pad2_ net-_r4-pad2_ net-_u1-pad4_ ? net-_r5-pad2_ net-_u1-pad7_ ? lm_741
r1  net-_r1-pad1_ net-_r1-pad2_ 25k
r2  net-_r2-pad1_ net-_r2-pad2_ 25k
r4  net-_r2-pad2_ net-_r4-pad2_ 40k
r3  net-_r1-pad2_ net-_r3-pad2_ 40k
r5  net-_r3-pad2_ net-_r5-pad2_ 40k
r6  net-_r4-pad2_ /ref 40k
* u1  net-_r1-pad1_ /-vin /+vin net-_u1-pad4_ /ref net-_r5-pad2_ net-_u1-pad7_ net-_r2-pad1_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
