* /home/ash98/esim-workspace/ina128/ina128.cir

.include INA_128.sub
x1 net-_r3-pad1_ net-_r1-pad2_ gnd net-_x1-pad4_ gnd out net-_x1-pad7_ net-_r3-pad2_ INA_128
v1  in gnd sine(0 .5 50 0 0)
r1  in net-_r1-pad2_ 1k
r3  net-_r3-pad1_ net-_r3-pad2_ 1k
r4  out gnd 1k
v3 net-_x1-pad7_ gnd  dc 30
v2 gnd net-_x1-pad4_  dc 30
r2  net-_r1-pad2_ out 10k
* u1  in plot_v1
* u2  out plot_v1
.tran 1e-03 100e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in) v(out)
.endc
.end
