* /home/ash98/downloads/esim-master/src/subcircuitlibrary/ideal_opamp/ideal_opamp.cir

.include PNP.lib
.include NPN.lib
q4 net-_c1-pad2_ net-_q2-pad1_ net-_q13-pad1_ Q2N2222
q1 gnd /inv net-_q1-pad3_ Q2N2907A
q2 net-_q2-pad1_ net-_q1-pad3_ net-_q2-pad3_ Q2N2907A
q6 gnd /non-inv net-_q5-pad2_ Q2N2907A
q5 net-_c1-pad2_ net-_q5-pad2_ net-_q2-pad3_ Q2N2907A
q3 net-_q13-pad1_ net-_q2-pad1_ net-_q2-pad1_ Q2N2222
q11 net-_q11-pad1_ net-_c1-pad1_ net-_q11-pad3_ Q2N2222
q12 net-_q11-pad1_ net-_q11-pad3_ net-_q10-pad2_ Q2N2222
q13 net-_q13-pad1_ net-_c1-pad1_ /out Q2N2907A
q10 net-_c1-pad1_ net-_q10-pad2_ /out Q2N2222
q8 net-_q8-pad1_ net-_q7-pad3_ net-_q8-pad3_ Q2N2222
q9 net-_c1-pad1_ net-_q8-pad3_ net-_q13-pad1_ Q2N2222
q7 ? net-_c1-pad2_ net-_q7-pad3_ Q2N2907A
* u1  /inv /non-inv /out net-_q11-pad1_ net-_q13-pad1_ port
c1  net-_c1-pad1_ net-_c1-pad2_ 50p
r2  net-_q10-pad2_ /out 30
r1  net-_q8-pad3_ net-_q13-pad1_ 100k
r3  net-_q11-pad1_ net-_q2-pad3_ 300k
r4  net-_q11-pad1_ net-_q8-pad1_ 500k
r5  net-_q11-pad1_ net-_c1-pad1_ 50k
r6  /out net-_q13-pad1_ 100k
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
