* /home/ash98/Downloads/eSim-master/src/SubcircuitLibrary/LM_353/LM_353.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Sun Dec 29 18:44:34 2019

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
J1  Net-_J1-Pad1_ Net-_J1-Pad2_ Net-_J1-Pad3_ eSim_PJF		
J2  Net-_J1-Pad1_ Net-_J2-Pad2_ Net-_J1-Pad3_ eSim_PJF		
Q2  Net-_J1-Pad1_ Net-_Q10-Pad1_ Net-_Q10-Pad1_ eSim_PNP		
Q4  Net-_Q10-Pad1_ Net-_Q10-Pad1_ Net-_J1-Pad3_ eSim_PNP		
J3  Net-_J1-Pad3_ ? Net-_J3-Pad3_ eSim_PJF		
Q3  Net-_J1-Pad3_ Net-_J1-Pad3_ Net-_Q1-Pad2_ eSim_NPN		
Q1  Net-_Q1-Pad1_ Net-_Q1-Pad2_ Net-_J1-Pad3_ eSim_NPN		
Q6  Net-_Q6-Pad1_ Net-_Q1-Pad2_ Net-_C1-Pad1_ eSim_NPN		
R3  Net-_J1-Pad3_ Net-_C1-Pad1_ 1.8k		
Q5  Net-_Q1-Pad2_ Net-_D2-Pad1_ Net-_D2-Pad2_ eSim_NPN		
R1  Net-_Q1-Pad1_ Net-_R1-Pad2_ 2k		
R4  Net-_Q6-Pad1_ Net-_R4-Pad2_ 2k		
R2  Net-_R1-Pad2_ Net-_D2-Pad2_ 100		
R5  Net-_R4-Pad2_ Net-_D2-Pad2_ 100		
Q8  Net-_Q13-Pad2_ Net-_D2-Pad1_ Net-_D2-Pad2_ eSim_NPN		
Q7  Net-_J1-Pad3_ Net-_C1-Pad1_ Net-_Q13-Pad2_ eSim_NPN		
U2  Net-_D2-Pad2_ Net-_J3-Pad3_ zener		
Q12  Net-_Q11-Pad1_ Net-_Q11-Pad1_ Net-_J1-Pad3_ eSim_PNP		
D1  Net-_D1-Pad1_ Net-_D1-Pad2_ eSim_Diode		
Q11  Net-_Q11-Pad1_ Net-_J3-Pad3_ Net-_D1-Pad1_ eSim_NPN		
Q10  Net-_Q10-Pad1_ Net-_D1-Pad1_ Net-_D1-Pad2_ eSim_NPN		
R6  Net-_D1-Pad2_ Net-_D2-Pad1_ 20k		
D2  Net-_D2-Pad1_ Net-_D2-Pad2_ eSim_Diode		
Q9  Net-_D2-Pad2_ Net-_C1-Pad2_ Net-_C1-Pad1_ eSim_PNP		
C1  Net-_C1-Pad1_ Net-_C1-Pad2_ 10p		
Q16  Net-_Q11-Pad1_ Net-_Q11-Pad1_ Net-_Q14-Pad2_ eSim_NPN		
Q14  Net-_Q11-Pad1_ Net-_Q14-Pad2_ Net-_C1-Pad2_ eSim_NPN		
R8  Net-_Q14-Pad2_ Net-_C1-Pad2_ 6k		
Q13  Net-_C1-Pad2_ Net-_Q13-Pad2_ Net-_Q13-Pad3_ eSim_NPN		
R7  Net-_Q13-Pad3_ Net-_D2-Pad2_ 30		
Q19  ? Net-_Q11-Pad1_ Net-_Q18-Pad2_ eSim_NPN		
Q18  Net-_Q11-Pad1_ Net-_Q18-Pad2_ Net-_Q17-Pad3_ eSim_NPN		
R10  Net-_Q18-Pad2_ Net-_Q17-Pad3_ 22		
R11  Net-_Q17-Pad3_ Net-_Q17-Pad2_ 30		
Q17  Net-_D3-Pad1_ Net-_Q17-Pad2_ Net-_Q17-Pad3_ eSim_PNP		
Q20  Net-_D2-Pad2_ Net-_C1-Pad2_ Net-_Q17-Pad2_ eSim_PNP		
D3  Net-_D3-Pad1_ Net-_D2-Pad2_ eSim_Diode		
Q15  Net-_C1-Pad1_ Net-_D3-Pad1_ Net-_Q15-Pad3_ eSim_NPN		
R9  Net-_Q15-Pad3_ Net-_D2-Pad2_ 160		
U1  Net-_J1-Pad2_ Net-_J2-Pad2_ Net-_Q17-Pad3_ Net-_J1-Pad3_ Net-_D2-Pad2_ PORT		

.end
